US08563565B2
(4) Synthesis of (2-methoxy-3,5-dimethylpyridin-4-yl)boronic acid
4-iodo-2-methoxy-3,5-dimethylpyridine (2.0 g) in THF (40 mL) was cooled to −78° C. A 2.69 M solution of n-butyllithium in hexane (6.5 mL) was added dropwise to the solution over 10 minutes. The mixture was stirred at −78° C. for 20 minutes. Triisopropyl borate (5.26 mL) was added dropwise to the mixture over five minutes. The mixture was stirred with warming to 20° C. over 1.5 hours. Water was added to the reaction mixture, followed by extraction with ethyl acetate. The aqueous layer was neutralized with citric acid. The aqueous layer was extracted with ethyl acetate. The combined organic layers were dried over anhydrous magnesium sulfate. The desiccant was removed by filtration, and the filtrate was then concentrated under reduced pressure. The residue was triturated by adding MTBE. The precipitated solid was collected by filtration. This solid is called first crop. The filtrate was concentrated under reduced pressure. The residue was triturated by adding MTBE. The precipitated title compound (551 mg) was collected by filtration. The first crop were suspended in ethyl acetate. Trituration was performed by adding a small amount of MTBE. The precipitated title compound (553.3 mg) was collected by filtration. The filtrate was concentrated under reduced pressure. The residue was triturated by adding MTBE. The precipitated title compound (121:1 mg) was collected by filtration. The combined title compound (1.23 g) was obtained.

reactant | 4-iodo-2-methoxy-3,5-dimethylpyridine | 2.0 g | IC1=C(C(=NC=C1C)OC)C | C8H10INO
reactant | n-butyllithium | C(CCC)[Li]
reactant | Triisopropyl borate | 5.26 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | Water | O | H2O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | hexane | 6.5 mL | CCCCCC | C6H14
product | (2-methoxy-3,5-dimethylpyridin-4-yl)boronic acid | COC1=NC=C(C(=C1C)B(O)O)C | C8H12BNO3
